US20010041703A1
A. 2-Benzyl-piperazine-1,2,4-tricarboxylic acid 1-benzyl ester 4-tert-butyl ester 2-methyl ester
To a stirred solution of piperazine-1,2,4-tricarboxylic acid 1-benzyl ester 4-tert-butyl ester 2-methyl ester (20.0 g, 53 mmol), prepared as described by Bigge et al. (Tetrahedron Let. 1989, 30, 5193), in tetrahydrofuran (500 mL) was added N,N-dimethylformamide (50 mL). The reaction was cooled to about −78° C., and a 1M solution of sodium bis(trimethylsilyl)amide in tetrahydrofuran (80 mL) was added. The reaction was stirred at about −78° C. for about 1 hour, and then benzyl bromide (9.4 mL, 79 mmol) was added. The reaction was stirred for about 30 minutes more at about −78° C., then-warmed to room temperature and stirred overnight. The reaction was quenched with saturated sodium bicarbonate solution, and the mixture was extracted three times with ethyl acetate. The combined organic layers were extracted twice with water, brine, dried over anhydrous magnesium sulfate, filtered and concentrated in vacuo to give 31 g of crude product. Purification by silica gel chromatography using 10-20% ethyl acetate/hexanes as eluent afforded the title compound of part 1-A (20.33 g, 82%): +APcl MS (M-55)+ 413, (M-99)+ 369; 1H NMR=400 MHz (CDCl3) δ: 7.37 (arom, m, 5H), 7.22 (arom, m, 3H), 7.00 (arom, m, 2H), 1.41 (BOC, d, 9H).

reactant | piperazine-1,2,4-tricarboxylic acid 1-benzyl ester 4-tert-butyl ester 2-methyl ester | 53 mmol, 20.0 g | COC(=O)C1N(CCN(C1)C(=O)OC(C)(C)C)C(=O)OCC1=CC=CC=C1 | C19H26N2O6
reactant | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
reactant | sodium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | benzyl bromide | 79 mmol, 9.4 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | tetrahydrofuran | 500 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 80 mL | O1CCCC1 | C4H8O
product | 2-Benzyl-piperazine-1,2,4-tricarboxylic acid 1-benzyl ester 4-tert-butyl ester 2-methyl ester | COC(=O)C1(N(CCN(C1)C(=O)OC(C)(C)C)C(=O)OCC1=CC=CC=C1)CC1=CC=CC=C1 | C26H32N2O6
